US06962923B2
4-(tert-butyl)-N-[3-(2-[{5-chloro-2-pyrimidinyl}oxy]ethoxy)-1-(2-hydroxyethyl)-4-(4-methylphenyl)-1H-pyrazol-5-yl]benzenesulfonamide
A solution of 4-(tert-butyl)-N-[1-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-3-(2-[{5-chloro-2-pyrimidinyl}oxy]ethoxy)-4-(4-methylphenyl)-1H-pyrazol-5-yl]benzenesulfonamide (Preparation 27) (90 mg) and tetrabutylammonium fluoride (1.0M in THF, 0.13 ml) in anhydrous THF (2 ml) was stirred for 3 hours at room temperature. After this period, tlc analysis (2:1 ethyl acetate:hexane) showed that little reaction had occurred. A second aliquot of 1.0M tetrabutylammonium fluoride in THF (0.13 ml) was added to the reaction solution and the resulting mixture was stirred at room temperature overnight. The reaction mixture was diluted with ether (30 ml) and then extracted with 1.0M citric acid (20 ml) and water (20 ml). The organic phase was dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a Biotage Flash 12i cartridge at 10 psi using 60% ethyl acetate/hexane as eluent to give the title compound as a colourless oil (56 mg).

reactant | 4-(tert-butyl)-N-[1-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-3-(2-[{5-chloro-2-pyrimidinyl}oxy]ethoxy)-4-(4-methylphenyl)-1H-pyrazol-5-yl]benzenesulfonamide | 90 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=NN1CCO[Si](C)(C)C(C)(C)C)OCCOC1=NC=C(C=N1)Cl)C1=CC=C(C=C1)C | C34H46ClN5O5SSi
reactant | tetrabutylammonium fluoride | 1.0M, 0.13 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hexane | CCCCCC | C6H14
reactant | tetrabutylammonium fluoride | 1.0M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 0.13 ml | C1CCOC1 | C4H8O
solvent | ether | 30 ml | CCOCC | C4H10O
product | 4-(tert-butyl)-N-[3-(2-[{5-chloro-2-pyrimidinyl}oxy]ethoxy)-1-(2-hydroxyethyl)-4-(4-methylphenyl)-1H-pyrazol-5-yl]benzenesulfonamide | 56 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=NN1CCO)OCCOC1=NC=C(C=N1)Cl)C1=CC=C(C=C1)C | C28H32ClN5O5S
